US07696215B2
Methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate (1.41 g), (bromomethyl)cyclopropane (0.40 ml), and potassium carbonate (2.1 g) were stirred in DMF (9.4 ml) at 60° C. for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water (×3). The combined aqueous layers was extracted with EtOAc and the organic layers combined, washed with brine, dried (magnesium sulphate) and concentrated to yield a brown glass. MeOH was added and the resultant solid collected by filtration and washed with ethyl acetate to yield methyl 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate as a white solid (0.39 g); NMR Spectrum: (DMSOd6) 0.00 (m, 2H), 0.38 (m, 2H), 0.76 (m, 1H), 2.05 (s, 3H), 2.14 (d, 2H), 2.52 (m, 4H) 3.17 (m, 4H), 3.75 (s, 3H), 7.36 (s, 1H), 7.51 (m, 3H), 7.85 (s, 1H), 7.90 (d, 1H), 7.97 (s, 1H); Mass Spectrum: M+H+ 433.

reactant | Methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate | 1.41 g | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCNCC1 | C21H22N4O3
reactant | (bromomethyl)cyclopropane | 0.40 ml | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | DMF | 9.4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | 0.39 g | C1(CC1)CN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C25H28N4O3
